* File: /home/graduation_project3/2015104069/VLSI/Hspice/Final/FA/PLS/FA.pex.netlist.pex
* Created: Fri Jun 19 18:02:47 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FA_VDD 6 7 8 9 10 11 12 13 19 20 24 27 29 30 35 38 41 44 46 47 51 53
+ 55
c98 55 0 0.00506048f
c99 51 0 0.00506048f
c100 47 0 0.00233286f
c101 46 0 0.0673825f
c102 44 0 0.00229387f
c103 41 0 0.00225613f
c104 38 0 0.00543057f
c105 35 0 0.00252403f
c106 30 0 0.00225613f
c107 29 0 0.0191781f
c108 27 0 0.00543057f
c109 24 0 0.00252403f
c110 20 0 0.0101178f
c111 19 0 0.00295073f
c112 13 0 0.00510963f
c113 12 0 0.0102403f
c114 11 0 0.0104742f
c115 10 0 0.0125335f
c116 9 0 0.0106769f
c117 8 0 0.0109762f
c118 7 0 0.00924838f
c119 6 0 0.00924838f
r120 53 55 102.4
r121 50 51 102.4
r122 46 47 102.4
r123 43 46 0.645833
r124 43 44 102.4
r125 40 43 4.13194
r126 40 41 102.4
r127 37 40 0.645833
r128 37 38 102.4
r129 34 37 1.13889
r130 34 35 102.4
r131 32 53 0.105756
r132 32 34 0.479167
r133 29 30 102.4
r134 26 29 0.645833
r135 26 27 102.4
r136 23 26 1.13889
r137 23 24 102.4
r138 21 50 0.105756
r139 21 23 0.479167
r140 20 53 0.0551282
r141 19 50 0.0551282
r142 19 20 0.489583
r143 13 44 102.4
r144 12 38 102.4
r145 12 27 102.4
r146 11 55 102.4
r147 11 51 102.4
r148 10 47 102.4
r149 9 41 102.4
r150 8 30 102.4
r151 7 35 102.4
r152 6 24 102.4
.ends

.subckt PM_FA_GND 1 2 3 4 5 11 12 13 14 15 22 26 29 32 34 35 40 42 45 48 51 54
+ 56 57
c94 57 0 0.00234541f
c95 56 0 0.068355f
c96 54 0 0.00493688f
c97 51 0 0.00260034f
c98 48 0 0.00663349f
c99 45 0 0.00229658f
c100 40 0 0.00682494f
c101 37 0 0.00824294f
c102 35 0 0.00260034f
c103 34 0 0.0298589f
c104 32 0 0.00663349f
c105 29 0 0.00229658f
c106 26 0 0.00682494f
c107 23 0 0.00824294f
c108 22 0 0.101746f
c109 15 0 0.00513823f
c110 14 0 0.00507075f
c111 13 0 0.00507075f
c112 12 0 0.0053523f
c113 11 0 0.0053523f
c114 5 0 0.00951316f
c115 4 0 0.00788673f
c116 3 0 0.00788648f
c117 2 0 0.0110515f
c118 1 0 0.0110515f
r119 56 57 102.4
r120 53 56 0.597222
r121 53 54 102.4
r122 50 53 4.18056
r123 50 51 102.4
r124 47 50 0.597222
r125 47 48 102.4
r126 44 47 1.18056
r127 44 45 102.4
r128 42 44 0.486111
r129 39 42 0.236111
r130 39 40 102.4
r131 37 39 0.743056
r132 34 35 102.4
r133 31 34 0.597222
r134 31 32 102.4
r135 28 31 1.18056
r136 28 29 102.4
r137 25 28 0.722222
r138 25 26 102.4
r139 23 25 0.743056
r140 22 37 0.179345
r141 21 23 0.179345
r142 21 22 2.38032
r143 15 54 102.4
r144 14 48 102.4
r145 13 32 102.4
r146 12 40 102.4
r147 11 26 102.4
r148 5 57 102.4
r149 4 51 102.4
r150 3 35 102.4
r151 2 45 102.4
r152 1 29 102.4
.ends

.subckt PM_FA_B 3 7 9 11 12 13 14 15 17 20 23 27 33 36
c98 36 0 0.0245386f
c99 33 0 0.0370579f
c100 27 0 0.019716f
c101 23 0 0.0136466f
c102 20 0 0.00470491f
c103 15 0 0.12549f
c104 14 0 0.013776f
c105 11 0 0.0247285f
c106 10 0 0.00301333f
c107 9 0 0.00957053f
c108 7 0 0.0258152f
c109 3 0 0.0531574f
r110 35 36 102.4
r111 33 35 0.0632894
r112 32 33 1.22826
r113 29 30 102.4
r114 27 35 0.0791118
r115 27 29 1.10185
r116 25 26 102.4
r117 22 25 1.25
r118 22 23 102.4
r119 20 38 80.1018
r120 17 22 1.9213
r121 17 20 102.4
r122 15 32 0.182398
r123 15 25 3.03704
r124 14 30 1.15226
r125 13 23 1.15226
r126 12 36 3.30723
r127 11 26 3.30968
r128 9 38 5.81838
r129 9 10 0.477301
r130 5 10 5.3213
r131 5 7 34.71
r132 1 10 5.3213
r133 1 3 98.67
.ends

.subckt PM_FA_A 3 7 9 11 12 13 14 19 21 24 25 27 29 37 38 42 45 47 52
c100 52 0 0.00470491f
c101 47 0 0.0418101f
c102 45 0 0.00590538f
c103 42 0 0.0100723f
c104 38 0 0.0245872f
c105 37 0 0.0414747f
c106 27 0 0.0403205f
c107 25 0 0.00211241f
c108 24 0 0.00854139f
c109 21 0 0.00652807f
c110 19 0 0.0422868f
c111 15 0 0.00254254f
c112 13 0 0.0123294f
c113 12 0 0.00902707f
c114 10 0 0.00301333f
c115 9 0 0.00957053f
c116 7 0 0.0531574f
c117 3 0 0.0258152f
r118 51 52 80.1018
r119 47 48 102.4
r120 45 47 1.8287
r121 40 45 0.142401
r122 40 42 0.195652
r123 37 38 102.4
r124 34 37 1.25
r125 34 35 102.4
r126 29 34 1.94444
r127 29 52 102.4
r128 26 27 4.59455
r129 24 26 0.212944
r130 24 25 0.595333
r131 21 25 0.212391
r132 20 48 0.101991
r133 19 27 0.212378
r134 19 20 3.55412
r135 15 48 0.110915
r136 14 21 0.132387
r137 13 35 1.15226
r138 12 15 0.931613
r139 11 38 3.30723
r140 11 42 102.4
r141 9 51 5.81838
r142 9 10 0.477301
r143 5 10 5.3213
r144 5 7 98.67
r145 1 10 5.3213
r146 1 3 34.71
.ends

.subckt PM_FA_CIN 3 7 11 15 17 19 26 27 31 39
c54 31 0 0.00883011f
c55 27 0 0.00211806f
c56 26 0 0.0221009f
c57 20 0 0.00391318f
c58 19 0 0.0134647f
c59 18 0 0.00221067f
c60 17 0 0.0118312f
c61 15 0 0.0343972f
c62 11 0 0.0348093f
c63 7 0 0.0407244f
c64 3 0 0.0370362f
r65 31 39 0.564
r66 30 31 80.1018
r67 27 34 80.1018
r68 26 27 102.4
r69 22 26 1.19444
r70 22 39 102.4
r71 19 34 4.9725
r72 19 20 0.974676
r73 17 30 11.0886
r74 17 18 0.477301
r75 13 20 6.35445
r76 13 15 68.64
r77 9 20 6.35445
r78 9 11 61.23
r79 5 18 5.3213
r80 5 7 71.37
r81 1 18 5.3213
r82 1 3 63.18
.ends

.subckt PM_FA_NET14 3 7 11 15 19 23 27 31 33 35 36 37 39 41 42 44 56 68 69 73 81
c150 81 0 0.00893703f
c151 73 0 0.00882981f
c152 69 0 0.00113788f
c153 68 0 0.0619438f
c154 56 0 0.00222869f
c155 44 0 0.0189747f
c156 42 0 0.0100274f
c157 41 0 0.0306376f
c158 40 0 0.00391532f
c159 39 0 0.0141188f
c160 38 0 0.00221067f
c161 37 0 0.0116906f
c162 36 0 0.00321958f
c163 35 0 0.0139882f
c164 34 0 0.00221067f
c165 33 0 0.0118312f
c166 31 0 0.0348093f
c167 27 0 0.041408f
c168 23 0 0.0375871f
c169 19 0 0.0449319f
c170 15 0 0.033696f
c171 11 0 0.0261709f
c172 7 0 0.0364853f
c173 3 0 0.0399148f
r174 80 81 80.1018
r175 72 73 80.1018
r176 69 84 80.1018
r177 68 69 102.4
r178 66 81 0.564
r179 65 68 1.19444
r180 65 66 102.4
r181 63 76 80.1018
r182 62 65 1.99074
r183 62 63 102.4
r184 59 73 0.564
r185 58 62 1.19444
r186 58 59 102.4
r187 56 63 0.28
r188 44 56 0.215172
r189 43 44 4.3271
r190 42 43 0.796593
r191 41 42 4.3369
r192 39 84 5.6225
r193 39 40 0.974676
r194 37 80 11.0886
r195 37 38 0.477301
r196 35 76 5.6225
r197 35 36 0.974676
r198 33 72 11.0886
r199 33 34 0.477301
r200 29 40 6.35445
r201 29 31 61.23
r202 25 40 6.35445
r203 25 27 68.64
r204 21 38 5.3213
r205 21 23 63.18
r206 17 38 5.3213
r207 17 19 71.37
r208 13 36 6.35445
r209 13 15 61.23
r210 9 36 6.35445
r211 9 11 69.03
r212 5 34 5.3213
r213 5 7 63.18
r214 1 34 5.3213
r215 1 3 71.37
.ends

.subckt PM_FA_XI1.NET10 3 7 9 11 12 18 19
c50 22 0 0.00264745f
c51 19 0 0.00345964f
c52 18 0 0.0258351f
c53 11 0 0.036402f
c54 9 0 0.00254243f
c55 7 0 0.0561787f
c56 5 0 0.00248257f
c57 3 0 0.0203235f
r58 19 22 89.3538
r59 18 19 102.4
r60 14 18 1.24074
r61 14 15 102.4
r62 12 15 3.35871
r63 11 15 1.11548
r64 10 22 2.6325
r65 9 22 2.73
r66 5 10 4.44544
r67 5 7 102.96
r68 1 9 4.44544
r69 1 3 24.57
.ends

.subckt PM_FA_XI3.NET10 3 7 9 11 12 18 19
c53 22 0 0.00264745f
c54 19 0 0.00339757f
c55 18 0 0.0144269f
c56 12 0 0.0339667f
c57 9 0 0.00248257f
c58 7 0 0.0192217f
c59 5 0 0.00254243f
c60 3 0 0.0524032f
r61 19 22 89.3538
r62 18 19 102.4
r63 14 18 1.24074
r64 14 15 102.4
r65 12 15 3.35626
r66 11 15 1.11548
r67 10 22 2.68125
r68 9 22 2.68125
r69 5 10 4.44544
r70 5 7 24.57
r71 1 9 4.44544
r72 1 3 103.35
.ends

.subckt PM_FA_SUM 1 2 3 5 10 13 14
c51 14 0 0.0497298f
c52 13 0 0.0350669f
c53 10 0 0.0366161f
c54 5 0 0.100591f
c55 3 0 0.00902928f
r56 13 14 102.4
r57 9 13 1.47685
r58 9 10 102.4
r59 7 14 2.31087
r60 3 7 0.200441
r61 3 5 2.83914
r62 2 10 0.919355
r63 1 2 4.45948
.ends

.subckt PM_FA_XI2.NET10 3 7 9 11 12 18 19
c45 22 0 0.00264745f
c46 19 0 0.00350821f
c47 18 0 0.0256394f
c48 12 0 0.0366018f
c49 9 0 0.00248257f
c50 7 0 0.0203235f
c51 5 0 0.00254243f
c52 3 0 0.0573775f
r53 19 22 89.3538
r54 18 19 102.4
r55 14 18 1.24074
r56 14 15 102.4
r57 12 15 3.35626
r58 11 15 1.11548
r59 10 22 2.68125
r60 9 22 2.68125
r61 5 10 4.44544
r62 5 7 24.57
r63 1 9 4.44544
r64 1 3 102.96
.ends

.subckt PM_FA_NET19 1 2 3 4 11 17 19 22 23 25
c66 26 0 0.00273361f
c67 25 0 0.0288123f
c68 23 0 0.00233123f
c69 22 0 0.00849081f
c70 19 0 0.00757584f
c71 17 0 0.0440949f
c72 12 0 0.00637609f
c73 11 0 0.0342169f
c74 2 0 0.0099951f
c75 1 0 0.0342163f
r76 24 25 4.59455
r77 22 25 0.212944
r78 22 23 0.595333
r79 19 23 0.212391
r80 18 26 0.148902
r81 17 24 0.206484
r82 17 18 3.55412
r83 13 26 0.0522411
r84 11 26 0.148902
r85 11 12 3.38647
r86 5 12 0.245956
r87 4 19 0.13729
r88 2 13 0.934065
r89 1 3 3.71231
r90 1 5 0.732718
.ends

.subckt PM_FA_NET21 1 2 3 4 11 17 19 22 23 25
c87 26 0 0.00273361f
c88 25 0 0.0264676f
c89 23 0 0.00230364f
c90 22 0 0.00885379f
c91 19 0 0.00681912f
c92 17 0 0.0374202f
c93 12 0 0.00637609f
c94 11 0 0.03419f
c95 3 0 0.0341926f
c96 2 0 0.00850498f
r97 24 25 4.59455
r98 22 24 0.212944
r99 22 23 0.595333
r100 19 23 0.212391
r101 18 26 0.148902
r102 17 25 0.206484
r103 17 18 3.55412
r104 13 26 0.0522411
r105 11 26 0.148902
r106 11 12 3.38647
r107 5 12 0.245956
r108 4 19 0.132387
r109 2 13 0.931613
r110 1 5 0.730769
r111 1 3 3.71036
.ends

.subckt PM_FA_COUT 1 2 9 11
c26 11 0 0.0274956f
c27 9 0 0.00517025f
c28 2 0 0.0412086f
r29 9 11 1.62292
r30 3 9 0.22536
r31 2 3 1.53471
r32 1 2 4.45948
.ends

